US07932272B2
C-(5-(2,4-Difluoro-phenoxy)-furan-2-yl)-methylamine
To a solution of 5-(2,4-difluoro-phenoxy)-furan-2-carbaldehyde (2060 mg, 9.19 mmol) in 7N ammonia/methanol solution (100 mL) was added Raney nickel (5.9 g), and the mixture was stirred for 24 hours at room temperature under hydrogen atmosphere. The reaction mixture was filtered through Celite pad, and the filtrate was concentrated in vacuo. The residue was purified by NH silica gel column chromatography (hexane:ethyl acetate), and the title compound (1814 mg, 88.06 mmol, 87.7%) was obtained as a yellow oil.

reactant | 5-(2,4-difluoro-phenoxy)-furan-2-carbaldehyde | 9.19 mmol, 2060 mg | FC1=C(OC2=CC=C(O2)C=O)C=CC(=C1)F | C11H6F2O3
reactant | ammonia methanol | 7N, 100 mL | N.CO
catalyst | Raney nickel | 5.9 g | [Ni] | Ni
product | C-(5-(2,4-Difluoro-phenoxy)-furan-2-yl)-methylamine | 88.06 mmol, 1814 mg, 87.7% | FC1=C(OC2=CC=C(O2)CN)C=CC(=C1)F | C11H9F2NO2
